US05859007
Sodium triacetoxyborohydride (27.9 g, 134 mmol) is added poRTionwise over 45 minutes to a 0° C. solution of 3,4-methylenedioxy aniline (13.8 g, 101 mmol) in THF (100 mL), acetone (7.82 mL, 106 mmol) and acetic acid (5.9 mL) and the resultant mixture is allowed to attain RT overnight. The reaction mixture is cooled to 0° C. and then water (50 mL) is added slowly followed by 50% aqueous sodium hydroxide solution (20 mL) and the resultant mixture stirred for 1.5 h. The organics were removed and the residual aqueous phase diluted with water (30 mL) and extracted into ethyl acetate (3×50 mL). The combined organics were washed with water (2×100 mL), brine (50 mL), dried (MgSO4) and concentrated in vacuo to afford crude N-Isopropyl-N-(3,4-methylenedioxy-phenyl) aniline (12.0 g) as a dark oil which is used without further purification. 1H NMR (300 MHz, CDCl3) δ6.72 (d, 1H, J=8.3), 6.43 (s, 1H), 6.29 (s, br, 1H), 5.91 (s, 2H), 3.53 (m, 1H, J=6.8), 1.17 (m, 6H).

reactant | Sodium triacetoxyborohydride | 134 mmol, 27.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3,4-methylenedioxy aniline | 101 mmol, 13.8 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | acetone | 106 mmol, 7.82 mL | CC(=O)C | C3H6O
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | acetic acid | 5.9 mL | C(C)(=O)O | C2H4O2
product | N-Isopropyl-N-(3,4-methylenedioxy-phenyl) aniline | 12.0 g | C(C)(C)N(C1=CC=CC=C1)C1=CC2=C(C=C1)OCO2 | C16H17NO2
